Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
malaise, urinary frequency, urgency and dysuria 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old woman who was referred from ___ 
for 2 weeks of urinary sympstoms and 1 day of hypotension. 

History mostly obtained via translation via daughter (pt is 
___ speaking). Patient initially developed sxs of urinary 
frequency, urgency and dysuria about 2 weeks ago that she 
believes started after a pap smear. Since then, she has had mild 
lower abdominal pain, associated with some episodes of 
incontinence. Also reports right sided flank pain for the past 2 
days, as well as several days of malaise, diffuse myalgias and 
arthralgias. Denies nausea/vomiting, fever, chills. ROS also 
positive for constipation (usually has BMs daily but now 
worsened to once every ___ days in the last week) and dark 
stools. She has taken some fiber-based stool softeners and dose 
of a laxative suppository without results. Passing gas. 

She presented to ___ yesterday where bilateral mild CVAT to 
percussion was noted. UA showed SG 1.005. PH 6.5. Positive for 
3+ leukocytes, 2+ blood. URINE CULTURE:  Gram Negative Rods, Non 
Lactose Fermenters >100,000 cfu/mL.
She was given CTX 1gm yest and IVF for presumed pyelonephritis. 
Today, she represented to  ___ with severe fatigue, given 1L 
NS and sent to ___ ED.

 In the ED, initial VS were: 103 74 87/48 18 100% RA   
 ED physical exam was recorded as benign abd, mild suprapubic 
discomfort, no focal tenderness, bilateral CVA tenderness R>L, 
guiaic positive melenotic stool.

ED labs were notable for: 
WBC 13 --> 11
Hb 9.1 --> 8.4

 Imaging showed:
CT abd 1. There are multifocal regions of patchy hypodensities 
in the right kidney, 
as well as possibly the left, with associated mild thickening of 
Gerota's 
fascia, possibly indicating a region of pyelonephritis. 
2. Mild enhancement of the bilateral ureters may indicate 
ascending infection. 
Additionally, there is mild enhancement of the bladder wall. 
Please correlate 
with patient's labs and clinical symptoms. 
3. A 1.3 x 0 0.8 cm hyperdense region in the liver dome likely 
represents 
transient hepatic attenuation difference. 

 Patient was given:
___ 14:51 IVF  NS 1000 mL  
___ 14:51 PO Acetaminophen 1000 mg    
___ 14:51 IV CeftriaXONE 1 gm  
___ 16:53 IV Pantoprazole 40 mg    
___ 17:41 IVF  NS 1000 mL   
___ 17:41 IVF  NS 1000 mL   

Transfer VS were 77 106/56 24 96% RA 

When seen on the floor, a ten point ROS was conducted and was 
negative except as above in the HPI.

 
Past Medical History:
Chronic daily headache 
Tuberculosis - Finished antiTb medication in ___
Insomnia

 
Social History:
___
Family History:
Family history of breast cancer
 
Physical Exam:
ADMISSION EXAM:
Gen: NAD, lying in bed, appears comfortable
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: right sided CVA tenderness to palpation and percussion. No 
significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.

DISCHARGE EXAM:
 Essentially unchanged from admission exam with the exception 
that CVA region no longer tender.
 
Pertinent Results:
___ 05:30PM   WBC-11.4* RBC-2.81* HGB-8.4* HCT-25.6* MCV-91 
MCH-29.9 MCHC-32.8 RDW-12.4 RDWSD-41.5
___ 05:30PM   PLT COUNT-158

___ 02:20PM   GLUCOSE-118* UREA N-12 CREAT-1.1 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-102 TOTAL CO2-23 ANION GAP-18

___ 02:20PM   ALT(SGPT)-17 AST(SGOT)-16 ALK PHOS-75 TOT 
BILI-0.5
___ 02:20PM   ___ PTT-38.3* ___

CT abd/pelvis:
1. There are multifocal regions of patchy hypodensities in the 
right kidney, as well as possibly the left, with associated mild 
thickening of Gerota's fascia, possibly indicating a region of 
pyelonephritis. 
 2. Mild enhancement of the bilateral ureters and the bladder 
wall may 
indicate ascending infection. Please correlate with patient's 
labs and 
clinical symptoms. 
 3. A 1.3 x 0 0.8 cm hyperdense region in the liver dome is not 
fully 
characterized on this exam and can be concerning for malignancy. 
Recommend 
further work up with dedicated MRI. 
 4. Prominence of the venous plexus, which can be seen in pelvic 
congestion syndrome. 
 5. Small amount of free pelvic fluid. 
 

 
Brief Hospital Course:
Patient is a ___ year old woman who was referred from ___ 
for 2 weeks of urinary sympstoms and 1 day of hypotension.

# Sepsis from urinary source
# Pyelonephritis:  
Pt was initially hypotensive (responded to fluids), with exam 
and imaging evidence of ascending UTI. Presentation was 
consistent with sepsis from urinary source given leukocytosis, 
positive urine culture, fever on presentation, and CVA 
tenderness on exam. CT showed multifocal regions of patchy 
hypodensities in the right kidney, 
as well as possibly the left kidney, with associated mild 
thickening of 
Gerota's fascia, possibly indicating a region of pyelonephritis. 
Urine cultures from HVA showed >100,000 E.coli resistant to 
Bactrim and aminoglycosides but otherwise sensitive to 
cephalosporins and fluoroquinolones.  She was treated with IV 
CTX while inpatient which was transitioned to PO levofloxacin 
for completion of 10 day course on discharge.

# GIB, ?upper: Patient reported 2 weeks of fatigue as well as 
report of dark stools in the setting of constipation. Hct was 
normal in ___, now down to ___. On rectal exam, there was 
no melena on her rectal vault.  She also did not have further 
dark stools while inpatient so it was felt that she did not need 
further w/u inpatient at this time.

# Constipation: ___ reported constipation for 2 weeks prior to 
admission.  She was also noted to have external hemorrhoids on 
exam.  Had 2 BM's while here and no longer felt constipated.  ___ 
started on senna and docusate on discharge.

# Insomnia: she was continued on home QUEtiapine Fumarate 50 mg 
PO QHS:PRN and Zolpidem Tartrate ___ mg PO QHS:PRN  

# Liver abnormality: CT report read as "A 1.3 x 0 0.8 cm 
hyperdense region in the liver dome is not fully characterized 
on this exam and can be concerning for malignancy" 

TRANSITIONAL ISSUES:
[ ] Pt needs f/u of new anemia and possible dark stools.  
Consider outpatient EGD vs. colonoscopy if not done recently
[ ] F/u of liver lesion per above

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clotrimazole Cream 1 Appl TP BID 
2. QUEtiapine Fumarate 50 mg PO QHS:PRN insomnia 
3. Zolpidem Tartrate ___ mg PO QHS:PRN insomnia 
4. DULoxetine 60 mg PO DAILY 

 
Discharge Medications:
 

1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice per day 
Disp #*60 Capsule Refills:*0 
2.  Levofloxacin 250 mg PO Q24H 
RX *levofloxacin 250 mg 1 tablet(s) by mouth every day Disp #*8 
Tablet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg one tablet by mouth twice per day 
Disp #*60 Tablet Refills:*0 
4.  Clotrimazole Cream 1 Appl TP BID  
5.  DULoxetine 60 mg PO DAILY  
6.  QUEtiapine Fumarate 50 mg PO QHS:PRN insomnia  
7.  Zolpidem Tartrate ___ mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pyelonephritis
external hemorrhoids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with urinary symptoms and back pain.  We found that 
you have a kidney infection.  We treated you with antibiotics 
and this improved.  

You also had dark stools for the last few days.  We did a rectal 
exam and did not find any evidence of bleeding.  You do have 
some hemorrhoids from prolonged constipation that may have had 
some bleeding.
 
Followup Instructions:
___